US09334278B2
A mixture of 2-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 338 mol), 1-methyl-1H-pyrazol-4-amine hydrochloride (67.8 mg, 526 mol), BINAP (10.5 mg, 16.9 mol), palladium (II) acetate (19.0 mg, 84.6 mol) and sodium tert-butoxide (81.3 mg, 846 mol) in DMF (1 mL) and toluene (500 L) was heated in a microwave at 140° C. for 20 min. The reaction mixture was diluted with water then extracted into ethyl acetate (3×). The combined organic extracts were washed with brine then dried over magnesium sulfate. Purification by chromatography (silica, 20-65% of a 10:89.5:0.5 methanol:dichloromethane:ammonium hydroxide solution in dichloromethane) gave N-(1-hydroxy-2-methylpropan-2-yl)-2-(1-methyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (28 mg, 60.9 mol, 18%) as a light yellow solid. (EI/CI) m/z: 460.3 [M+H].

reactant | 2-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 338 mol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(CO)(C)C)COCC[Si](C)(C)C | C17H27BrN4O3Si
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 526 mol, 67.8 mg | Cl.CN1N=CC(=C1)N
reactant | BINAP | 16.9 mol, 10.5 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 846 mol, 81.3 mg | CC(C)([O-])C.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | toluene | 500 L | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | palladium (II) acetate | 84.6 mol, 19.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(1-hydroxy-2-methylpropan-2-yl)-2-(1-methyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 60.9 mol, 28 mg, 18% | OCC(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NN(C2)C)COCC[Si](C)(C)C | C21H33N7O3Si
